US05998433
To a solution of 10.035 g (104.43 mmol) of 3-furaldehyde and 6.37 g (104 mmol) of nitromethane in 200 ml of ethanol, 11.0 ml of 10 N aqueous sodium hydroxide was added dropwise under ice-cooling, after which the reaction mixture was added dropwise to about 15% aqueous hydrochloric acid; the resulting precipitate was collected by filtration, washed with water and dried to yield 2-(3-furyl)-1-nitroethylene as a brown powder (yield 9.320 g). This crude product, without purification, was used for the next reaction.

reactant | 3-furaldehyde | 104.43 mmol, 10.035 g | O1C=C(C=C1)C=O | C5H4O2
reactant | nitromethane | 104 mmol, 6.37 g | [N+](=O)([O-])C | CH3NO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10 N, 11.0 ml | [OH-].[Na+]
product | 2-(3-furyl)-1-nitroethylene | yield 9.320 g | O1C=C(C=C1)C=C[N+](=O)[O-] | C6H5NO3
